US04877779
To a solution of pent-4-ynal (6.99 g, 85.1 mmol) dissolved in methylene chloride (85 mL) was added 1,3-propanedithiol (8.54 mL, 85.1 mmol). The solution was stirred at room temperature for 1 hour and then cooled to -20° C. Boron trifluoride etherate (10.46 mL, 85.1 mmol) was added and, after warming to room temperature, the solution was stirred for 16 hours. The solution was washed with water (2×20 mL) and the aqueous extract was washed with additional methylene chloride (2×40 mL). The combined organic extracts were washed with 10% potassium hydroxide solution (4×30 mL) and the aqueous extract was washed with additional methylene chloride (2×40 mL). The combined organic extracts were washed with 10% potassium hydroxide solution (4×30 mL) and the aqueous extract was back-extracted with methylene chloride (2×40 mL). The combined organic extracts were washed with brine (2×40 mL) and dried (K2CO3). The solvent was removed by rotary evaporation to afford 9.14 g (62%) of 2-(but-3-ynyl)-1,3-dithiane as a pale yellow oil. 1H NMR (CDCl3)δ: 4.2 (t, 1H), 3.1-2.8 (m, 4H), 2.6-2.4 (m, 1H), 2.3-2.0 (m, 6H); IR (neat): 3286, 2908, 1421, 1272, 907 cm-1 ; GC retention time=3.11 min (88% area); TLC (silica gel, 90% hexane: 10% ethyl acetate) Rf=0.74.

reactant | pent-4-ynal | 85.1 mmol, 6.99 g | C(CCC#C)=O | C5H6O
reactant | 1,3-propanedithiol | 85.1 mmol, 8.54 mL | C(CCS)S | C3H8S2
reactant | Boron trifluoride etherate | 85.1 mmol, 10.46 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 85 mL | C(Cl)Cl | CH2Cl2
product | 2-(but-3-ynyl)-1,3-dithiane | 9.14 g, 62% | C(CC#C)C1SCCCS1 | C8H12S2
